US04727073
A mixture of methyl 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate (5 g), pyridinium bromide perbromide (5.6 g) and 25% hydrogen bromide-acetic acid (5 ml) in acetic acid (200 ml) was stirred for 2 hours at room temperature. The reaction mixture was poured into ice water (200 ml) and stirred for 10 minutes. The resulting precipitates were collected and dissolved in a mixture of chloroform (50 ml) and water (50 ml). The separated organic layer was washed with saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride successively, dried over magnesium sulfate. The solvent was evaporated in vacuo and the residual crystal was recrystallized from ethanol to give methyl 6-bromomethyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate (4.07 g).

reactant | methyl 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate | 5 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC | C19H15N3O4
reactant | pyridinium bromide perbromide | 5.6 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | hydrogen bromide acetic acid | 5 ml | Br.C(C)(=O)O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | methyl 6-bromomethyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate | 4.07 g | BrCC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC | C19H14BrN3O4
